US05175164
Step A: Preparation of ethyl valerimidate (Free Base)
A 12.7 g (76.7 mmol) sample of ethyl valerimidate hydrochloride (prepared from valeronitrile, ethanol, and hydrogen chloride gas as described by A. J. Hill and I. Rabinowitz, J. Am. Chem. Soc., 1926, 48, 734) was dissolved in 33% (w/w) potassium carbonate solution (made by dissolving 15 g of K2CO3 in 30 mL of H2O) and immediately extracted with either (3×40 mL). The combined ether layers were dried over Na2SO4, filtered, and concentrated in vacuo to give 7.09 g (72%) of the product as a clear oil, which was used directly in the next step. 1H NMR (300 MHz, CDCl3, ppm): δ 0.88 (t, J=7 Hz, 3H), 1.24 (t, J=7 Hz, 3H), 1.31 (m, 2H), 1.50 (m, 2H), 2.19 (t, J=7.5 Hz, 2H), 4.06 (q. J=7 Hz, 2H), 6.84 (br s, 1H).

reactant | ethyl valerimidate hydrochloride | Cl.C(CCCC)(OCC)=N
reactant | valeronitrile | C(CCCC)#N | C5H9N
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
solvent | potassium carbonate | 30 mL, 15 g | C([O-])([O-])=O.[K+].[K+]
product | ethyl valerimidate | 7.09 g, 72% | C(CCCC)(OCC)=N | C7H15NO
